US09328111B2
Step 3: 12-Oxo-5,6,7,12-tetrahydrobenzo[a]acridine-11-carboxylic acid
A mixture of diethyl 3-aminophthalate and dimethyl 3-aminophthalate (1.0 g, 3.82 mmol), 3,4-dihydronaphthalen-2(1H)-one (0.61 g, 4.2 mmol), and aluminum trichloride (0.51 g, 3.82 mmol) was placed in a sealed tube and heated to 80° C. for 1 hour and then 130° C. for additional 4 hours. The mixture was cooled to room temperature, treated with methanol and concentrated. The remaining residue was chromatographed on silica gel using eluant of 3.2% methanol in dichloromethane and then purified by recrystalization in ethyl acetate and methanol to give the product (0.36 g, 30%) as a light brown solid. MS (ESI) m/e [M+1]+292.

reactant | diethyl 3-aminophthalate | NC1=C(C(C(=O)OCC)=CC=C1)C(=O)OCC | C12H15NO4
reactant | dimethyl 3-aminophthalate | 3.82 mmol, 1.0 g | NC1=C(C(C(=O)OC)=CC=C1)C(=O)OC | C10H11NO4
reactant | 3,4-dihydronaphthalen-2(1H)-one | 4.2 mmol, 0.61 g | C1C(CCC2=CC=CC=C12)=O | C10H10O
reactant | aluminum trichloride | 3.82 mmol, 0.51 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | methanol | CO | CH4O
product | 12-Oxo-5,6,7,12-tetrahydrobenzo[a]acridine-11-carboxylic acid | 0.36 g, 30% | O=C1C2=C(C=CC=C2NC=2CCC3=C(C12)C=CC=C3)C(=O)O | C18H13NO3
